US04175206
36.9 g of sodium glyoxylate are added to 130 ml of water, and 75 g of ammonium acetate and 60 g of phenol are added thereto under stirring. The mixture is stirred at 30° to 35° C. for 48 hours. After the reaction, the crystalline precipitates are collected by filtration under cooling, and then successively washed with water and methanol. 27.2 g of DL-p-hydroxyphenylglycine are thereby obtained as white crystals.

reactant | sodium glyoxylate | 36.9 g | C(C=O)(=O)[O-].[Na+]
reactant | ammonium acetate | 75 g | C(C)(=O)[O-].[NH4+]
reactant | phenol | 60 g | C1(=CC=CC=C1)O | C6H6O
solvent | water | 130 ml | O | H2O
product | DL-p-hydroxyphenylglycine | 27.2 g, Yield: 50.4% | C1=CC(=CC=C1C(C(=O)O)N)O | C8H9NO3
